US07057042B2
5-fluoro-2-{[4-(2-pyridinyl)-1-piperazinyl]carbonyl}-1H-indole
5-Fluoro-1H-indole-2-carboxylic acid (4.0 g) and EDCI (4.29 g) were combined in dichloromethane (90 mL) and treated with 1-(2-pyridinyl)piperazine (3.64 g). After stirring at 25° C. for 24 hours, the mixture was washed with 150 mL of water and filtered. The filter cake was washed in succession with 300 mL of water, 250 mL of dichloromethane and 20 mL of ethyl acetate to provide the title compound. 1H NMR (d6-DMSO, 300 MHz) δ 3.61 (m, 4H), 3.85 (m, 4H), 6.67 (dd, 1H, J=7.5, 4.8 Hz), 6.85 (m, 2H), 7.06 (m, 1H), 7.40 (m, 2H), 7.65 (m, 1H), 8.04 (dd, 1H, J=4.5, 1.8 Hz), 11.72 (bs, 1H). MS (DCI/NH3) m/z 325 (M+H)+.

reactant | 5-Fluoro-1H-indole-2-carboxylic acid | 4.0 g | FC=1C=C2C=C(NC2=CC1)C(=O)O | C9H6FNO2
reactant | EDCI | 4.29 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | 1-(2-pyridinyl)piperazine | 3.64 g | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
solvent | dichloromethane | 90 mL | ClCCl | CH2Cl2
product | 5-fluoro-2-{[4-(2-pyridinyl)-1-piperazinyl]carbonyl}-1H-indole | FC=1C=C2C=C(NC2=CC1)C(=O)N1CCN(CC1)C1=NC=CC=C1 | C18H17FN4O
